US03957783
A mixture of 10.0 g of 2-amino-3-(o-chlorobenzoyl)thiophene, 14.26 g of ethyl carbamate and 0.86 g of zinc chloride is heated at 200°C for 30 minutes. After cooling, the reaction mixture is well washed with chloroform, then with water, and filtered to give crude crystals of 4-(o-chlorophenyl)-1,2-dihydrothieno[2,3-d]pyrimidin-2-one.

reactant | 2-amino-3-(o-chlorobenzoyl)thiophene | 10.0 g | NC=1SC=CC1C(C1=C(C=CC=C1)Cl)=O | C11H8ClNOS
reactant | ethyl carbamate | 14.26 g | C(N)(OCC)=O | C3H7NO2
catalyst | zinc chloride | 0.86 g | [Cl-].[Zn+2].[Cl-]
product | 4-(o-chlorophenyl)-1,2-dihydrothieno[2,3-d]pyrimidin-2-one | ClC1=C(C=CC=C1)C=1C2=C(NC(N1)=O)SC=C2 | C12H7ClN2OS
